US05157041
0.1 g of 4-(tert.butoxycarbonyl)-piperazine-2-carboxylic acid was dissolved in 10 ml of 1N sodium hydroxide solution, cooled to 0° C. and treated with 0.2 g of benzyl chloroformate. The mixture was allowed to warm to room temperature and was then stirred overnight. The mixture was extracted with diethyl ether. The aqueous phase was then acidified to pH 4 with 2M hydrochloric acid and extracted with ethyl acetate to give 0.06 g of 1-(benzyloxycarbonyl)-4-(tert.butoxycarbonyl)-2-piperazinecarboxylic acid as a white solid; MS: m/e 365 [M+H]+.

reactant | 4-(tert.butoxycarbonyl)-piperazine-2-carboxylic acid | 0.1 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)O | C10H18N2O4
reactant | benzyl chloroformate | 0.2 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 1-(benzyloxycarbonyl)-4-(tert.butoxycarbonyl)-2-piperazinecarboxylic acid | 0.06 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
